US08349824B2
A solution of ethyl 7-(tert-butoxycarbonylamino)-[1,2,4]triazolo[1,5-a]pyridine-2-carboxylate (1.07 g, 3.49 mmol) in dichloromethane (5 ml) and trifluoroacetic acid (5.38 ml, 69.9 mmol) is stirred for 3 hours at 25° C. The mixture is made basic using sat. aqueous sodium carbonate solution and extracted with ethyl acetate. The organic layer is washed with water and brine, dried with magnesium sulfate and the solvent is removed in vacuo affording ethyl 7-amino-[1,2,4]triazolo[1,5-a]pyridine-2-carboxylate (543 mg, 75.4%) as a light yellow solid. mp.: 150-171° C. MS: m/z=207.0 (M+H+).

reactant | ethyl 7-(tert-butoxycarbonylamino)-[1,2,4]triazolo[1,5-a]pyridine-2-carboxylate | 3.49 mmol, 1.07 g | C(C)(C)(C)OC(=O)NC1=CC=2N(C=C1)N=C(N2)C(=O)OCC | C14H18N4O4
reactant | trifluoroacetic acid | 69.9 mmol, 5.38 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | ethyl 7-amino-[1,2,4]triazolo[1,5-a]pyridine-2-carboxylate | 543 mg, 75.4% | NC1=CC=2N(C=C1)N=C(N2)C(=O)OCC | C9H10N4O2
